US04722929
2-(2-Dimethylamino-4-nitro-phenyl)-5-methoxy-imidazo[4,5-b]pyridine
An amount of 0.45 gm of 2-dimethylamino-4-nitro-benzoic acid is suspended in 15 ml of phosphorus oxychloride, and 0.45 gm of 2,3-diamino-6-methoxy-pyridine dihydrochloride are added. The mixture is refluxed for two hours and after cooling poured onto water. The aqueous solution is made ammoniacal with cooling, and the product precipitated is treated as in Example 4(b).

reactant | 2-dimethylamino-4-nitro-benzoic acid | 0.45 gm | CN(C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-])C | C9H10N2O4
reactant | 2,3-diamino-6-methoxy-pyridine dihydrochloride | 0.45 gm | Cl.Cl.NC1=NC(=CC=C1N)OC
solvent | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2-Dimethylamino-4-nitro-phenyl)-5-methoxy-imidazo[4,5-b]pyridine | CN(C1=C(C=CC(=C1)[N+](=O)[O-])C=1NC=2C(=NC(=CC2)OC)N1)C | C15H15N5O3
